US07507740B2
(i) Production of 3-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)propane-1,2-diyl dibenzoate
A mixture of 4-chloro-5H-pyrrolo[3,2-d]pyrimidine (500 mg), 3-bromopropane-1,2-diyl dibenzoate (1.77 g), cesium carbonate (1.59 g) and N,N-dimethylformamide (6.5 mL) was stirred at 80° C. for 4 hrs. The reaction mixture was diluted with ethyl acetate (100 mL) and washed with water (80 mL). The organic layer was separated, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=90/10→40/60) to give the title compound (401 mg) as a white powder.

reactant | 4-chloro-5H-pyrrolo[3,2-d]pyrimidine | 500 mg | ClC=1C2=C(N=CN1)C=CN2 | C6H4ClN3
reactant | 3-bromopropane-1,2-diyl dibenzoate | 1.77 g | C(C1=CC=CC=C1)(=O)OCC(CBr)OC(C1=CC=CC=C1)=O | C17H15BrO4
reactant | cesium carbonate | 1.59 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dimethylformamide | 6.5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 3-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)propane-1,2-diyl dibenzoate | 401 mg | C(C1=CC=CC=C1)(=O)OCC(CN1C=CC=2N=CN=C(C21)Cl)OC(C2=CC=CC=C2)=O | C23H18ClN3O4
